US07329680B2
A solution of dibenzofuran-4-boronic acid (422 mg, 1.98 mmol) in methanol (10 mL) was added to a stirred solution methyl-4-[5-chloro-1-(6-chloropyridin-3-ylmethyl)-1H-indol-3-yl]-4-oxo-butyrate (650 mg, 1.66 mmol) and tetrakis-(triphenylphosphine)-palladium(0) (72 mg, 5 mol %) in toluene (40 mL). 2N sodium carbonate (1.66 mL, 3.32 mmol) was added and the reaction was heated to 90° C. (oil bath temp.) for 2-3 hrs until complete (TLC control). The reaction mixture was cooled to room temperature and partitioned between water and diethyl ether. The phases were separated, the aqueous phase being further extracted with diethyl ether (2×30 mL). The combined extract was washed with water and brine. The ethereal solution was dried over anhydrous MgSO4, filtered and concentrated in vacuo to yield methyl-4-[5-chloro-1-(6-dibenzofuran-4-yl-pyridin-3-ylmethyl)-1H-indol-3-yl]-4-oxo-butyrate as a white solid (713 mg, 82%); Rf: 0.5 (50% ethyl acetate in heptane); 1H NMR (CDCl3, 300 MHz) δ 8.71 (1H, s, ArH), 8.41 (2H, m, ArH), 8.27 (1H, d, J=8 Hz, ArH), 8.00 (2H, m, ArH), 7.89 (2H, s, ArH), 7.44-7.58 (4H, m, ArH), 7.39 (2H, m, ArH), 5.43 (2H, s, CH2N), 3.71 (3H, s OMe), 3.21 (2H, t, J=7 Hz, CH2CO), 2.80 (2H, t, J=7 Hz, CH2CO); ESI-LCMS e/z calculated for C31H23ClN2O4 522.980, found 523 [M+H (35Cl)]+, 525 [M+H (37Cl)]+, 545 [M+Na (35Cl)]+, 547 [M+Na (37Cl)]+.

reactant | dibenzofuran-4-boronic acid | 1.98 mmol, 422 mg | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | methyl-4-[5-chloro-1-(6-chloropyridin-3-ylmethyl)-1H-indol-3-yl]-4-oxo-butyrate | 1.66 mmol, 650 mg | COC(CCC(=O)C1=CN(C2=CC=C(C=C12)Cl)CC=1C=NC(=CC1)Cl)=O | C19H16Cl2N2O3
reactant | sodium carbonate | 3.32 mmol, 2N, 1.66 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis-(triphenylphosphine)-palladium(0) | 72 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl-4-[5-chloro-1-(6-dibenzofuran-4-yl-pyridin-3-ylmethyl)-1H-indol-3-yl]-4-oxo-butyrate | 713 mg, 82% | COC(CCC(=O)C1=CN(C2=CC=C(C=C12)Cl)CC=1C=NC(=CC1)C1=CC=CC2=C1OC1=C2C=CC=C1)=O | C31H23ClN2O4
